US04337201
(S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, (2,2-dimethyl-1-oxopropoxy)methyl ester
(S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, (2,2-dimethyl-1-oxopropoxy)methyl ester (2.7 g) in dichloromethane (dried over alumina) is treated with bromotrimethylsilane (1.2 ml) via syringe and the reaction mixture is stirred for 16 hours under argon. The solvent and excess bromotrimethylsilane is evaporated in vacuo and the residue is taken up in ethyl acetate and water and stirred for 15 minutes. The layers are separated and the ethyl acetate is washed with 5% potassium sulfate, water, brine dried (MgSO4) and evaporated. The 2.3 g of crude product is chromatographed on silica (75 g) eluting with dichloromethane/methanol/acetic acid (19/0.5/0.5). After stripping solvent 1.9 g of product is left as a glass.

reactant | (S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, (2,2-dimethyl-1-oxopropoxy)methyl ester | 2.7 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OCOC(C(C)(C)C)=O | C27H40NO7PS2
reactant | bromotrimethylsilane | 1.2 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, (2,2-dimethyl-1-oxopropoxy)methyl ester | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OCOC(C(C)(C)C)=O | C25H36NO7PS2
